US04122263
2-[2'-(2"-chlorobenzylthio)-5'-chlorphenyl]-imidazoline hydrochloride
32 Parts of 4-chlorobenzothietane-2-spiro-2'-imidazoline is reacted with 26 parts of 2-chlorobenzyl chloride in 300 parts of methanol. The yield is 52 parts (90% of theory) and the melting point is 260° C. with decomposition.

reactant | 4-chlorobenzothietane-2-spiro-2'-imidazoline | ClC=1C=CC2=C(C1)C1(NCCN1)S2 | C9H9ClN2S
reactant | 2-chlorobenzyl chloride | ClC1=C(CCl)C=CC=C1 | C7H6Cl2
solvent | methanol | CO | CH4O
product | 2-[2'-(2"-chlorobenzylthio)-5'-chlorphenyl]-imidazoline hydrochloride | Cl.ClC1=C(CSC2=C(C=C(C=C2)Cl)C=2NCCN2)C=CC=C1 | InChI=1S/C16H14Cl2N2S.ClH/c17-12-5-6-15(13(9-12)16-19-7-8-20-16)21-10-11-3-1-2-4-14(11)18;/h1-6,9H,7-8,10H2,(H,19,20);1H
